US07645789B2
A solution of (E)-2-(5-tert-butyl-2,4-dinitrophenyl)-N,N-dimethylethen-amine (5.3 g, 18 mmol) and tin (II) chloride dihydrate (37 g, 0.18 mol) in ethanol (200 mL) was heated at reflux overnight. The mixture was cooled to room temperature and the solvent was removed under vacuum. The residual slurry was diluted with water (500 mL) and was basifed with 10% aq. Na2CO3 to pH 8. The resulting suspension was extracted with ethyl acetate (3×100 mL). The ethyl acetate extract was washed with water and brine, dried over Na2SO4, and concentrated. The residual solid was washed with CH2Cl2 to afford a yellow powder, which was purified by column chromatography to give 5-tert-butyl-1H-indol-6-amine (0.40 g, 12%). 1H NMR (DMSO. d6) δ 10.34 (br s, 1H), 7.23 (s, 1H), 6.92 (s, 1H), 6.65 (s, 1H), 6.14 (s, 1H), 4.43 (br s, 2H), 2.48 (s, 9H); MS (ESI) m/e (M+H+) 189.1.

reactant | (E)-2-(5-tert-butyl-2,4-dinitrophenyl)-N,N-dimethylethen-amine | 18 mmol, 5.3 g | C(C)(C)(C)C=1C(=CC(=C(C1)/C=C/N(C)C)[N+](=O)[O-])[N+](=O)[O-] | C14H19N3O4
reactant | tin (II) chloride dihydrate | 0.18 mol, 37 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-tert-butyl-1H-indol-6-amine | 0.40 g, 12% | C(C)(C)(C)C=1C=C2C=CNC2=CC1N | C12H16N2
